*$
*PART NUMBER: NJU7042
*MANUFACTURER: NEW JAPAN RADIO
*CMOS OPAMP
*All Rights Reserved Copyright (c) Bee Technologies Inc. 2007
.SUBCKT nju7042  IN+ VSS IN- OUT VDD
m1 3 IN- 6 VSS nix l=6u w=20u
m2 4 7 6 VSS nix l=6u w=25u
m3 8 IN- 5 5 pix l=6u w=25u   
m4 9 7 5 5 pix l=6u w=27.05u	
eos 7 IN+ poly(1) 25 98 5e-3 0.451   
iin1 IN+ 0 -1.5p
iin2 IN- 0 -.5p
i1 VDD 5 50u   
i2 6 VSS 50u
r1 VDD 3 4.833k
r2 VDD 4 4.833k
r3 8 VSS 4.833k
r4 9 VSS 4.833k
d3 5 VDD dx
d4 VSS 6 dx
eref 98 0 poly(2) VDD 0 VSS 0 0 0.5 0.5
g1 98 21 poly(2) 4 3 9 8 0 145u 145u
rg 21 98 20.2e6   
cc 21 OUT 1p  		
d1 21 22 dx
d2 23 21 dx
v1 VDD 22 1.37
v2 23 VSS 1.37
ecm 24 98 poly(2) IN+ 98 IN- 98 0 0.5 0.5
r5 24 25  1e6
r6 25 98 0.73k           
c1 24 25 0.75p
isy VDD VSS 18.4u
gsy VDD VSS poly(1) VDD VSS -3.334e-4 6.667e-5
ep VDD 39 poly(1) 98 21 0.78925 1  
en 38 VSS poly(1) 21 98 0.78925 1        
m15 OUT 39 VDD VDD pox l=1.5u w=4u     
m16 OUT 38 VSS VSS nox l=1.5u w=4.2u    
c2 OUT 39 350p		
c3 out 9 890p
.model dx d(rs=1 cjo=1p)
.model nix nmos(vto=.75 kp=205.5u rd=1 rs=1 rg=1 rb=1
+ cgso=4e-12 cgdo=4e-12 cbd=1.5e-12)	 
.model nox nmos(vto=.75 kp=195u rd=.5 rs=.5 rg=1 rb=1
+ cgso=66.667e-12 cgdo=66.667e-12 cbd=2.34e-13)
.model pix pmos(vto=-.75 kp=205.5u rd=1 rs=1 rg=1 rb=1
+ cgso=4e-12 cgdo=4e-12 cbd=1.534e-12)	
.model pox pmos(vto=-.75 kp=195u rd=.5 rs=.5 rg=1 rb=1
+ cgso=66.667e-12 cgdo=66.667e-12 cbd=55.538e-10)
.ends 